.title Bode_from_PSRR — Extract loop gain from PSRR complex response
.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends
.lib "../sky130.lib.spice" tt
.temp 27
.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 DC 7 AC 1
Ven en 0 2.2
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 500

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10
.ac dec 50 1 10e6

.control
run
* PSRR(s) = V(pvdd)/V(bvdd) (complex)
* For LDO: PSRR ≈ feedthrough/(1+T)
* Assuming feedthrough ≈ 1 at low freq: T(s) = 1/PSRR(s) - 1
let psrr_complex = v(pvdd)/v(bvdd)
let t_loop = 1/psrr_complex - 1
let loop_gain_db = db(t_loop)
let loop_phase = 180/3.14159*ph(t_loop)
wrdata bode_data.txt loop_gain_db loop_phase
* Also save PSRR for the PSRR plot
let psrr_db = db(psrr_complex)
wrdata psrr_data.txt psrr_db
quit
.endc
.end
