.title Bode_Middlebrook — Loop gain via Middlebrook at vfb node
.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends
.lib "../sky130.lib.spice" tt
.temp 27
.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir

* === Manual instantiation with Middlebrook probe at vfb ===

* Pass device
XM_pass gate bvdd pvdd pass_device

* Soft-start
XRss avbg vref_ss gnd sky130_fd_pr__res_xhigh_po w=2 l=100
Css vref_ss gnd 22n

* Error amp: reads vfb_to_ea (the EA side of the probe)
XEA vref_ss vfb_to_ea ea_out gnd ibias ea_en bvdd error_amp

* Feedback network: output is vfb_from_div (the divider side of the probe)
XFB pvdd vfb_from_div gnd feedback_network
Cfb vfb_from_div gnd 2p

* === MIDDLEBROOK PROBE at vfb ===
* Linj: DC short between divider output and EA input (preserves DC bias)
* Cinj: AC ground on EA input side (holds EA at DC operating point during AC)
* Vac: AC injection on divider side
Linj vfb_from_div vfb_to_ea 1T
Cinj vfb_to_ea gnd 1T
Vac_inj vfb_from_div vfb_inj DC 0 AC 1

* Loop gain T(s) = v(vfb_to_ea) / v(vfb_inj)
* (signal injected at divider output, measured at EA input after going around the loop)

* Compensation
XCOMP ea_out pvdd gnd compensation

* Current limiter
Iibias_ilim 0 ibias_ilim 1u
XILIM gate bvdd pvdd gnd ilim_flag ibias_ilim current_limiter

* UV/OV
XUV pvdd avbg uv_flag svdd gnd uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd gnd uvov_en ov_comparator

* Zener
XZC pvdd gnd ibias zener_clamp

* Mode control
XMC bvdd pvdd svdd gnd en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control

* Startup
XSU bvdd pvdd gate gnd avbg startup_done su_ea_en ea_out startup

* EA enable
Ren_ea bvdd ea_en 100

* POR gate pullup
XMpo_invp pass_off_b pass_off bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=40e-6 l=2e-6
XMpo_invn pass_off_b pass_off gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=2e-6
XMgate_pu gate pass_off_b bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=2e-6

* Level shifter
XLS_EN en en_bvdd bvdd svdd gnd level_shifter_up

* Output caps
Cload pvdd gnd 200e-12
Cout_ext pvdd gnd 1u

* Supplies
Vbvdd bvdd 0 7
Ven en 0 2.2
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 500

.option gmin=1e-10
.ac dec 50 1 10e6

.control
run
* Middlebrook loop gain: T(s) = -v(vfb_to_ea)/v(vfb_inj)
* Negative sign because negative feedback
let loop_gain_db = db(v(vfb_to_ea)/v(vfb_inj))
let loop_phase = 180 + 180/3.14159*ph(v(vfb_to_ea)/v(vfb_inj))
wrdata bode_data.txt loop_gain_db loop_phase
quit
.endc
.end
