* Diagnostic: TT -40C — confirm mode control sequencing failure
.title Diag_TT_m40

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt
.temp -40

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies — startup ramp
Vbvdd bvdd 0 PWL(0 0 10u 7 100m 7)
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven_ret en_ret 0 0

* Load: 1mA
Rload pvdd 0 5000

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ic V(pvdd)=0 V(bvdd)=0
.tran 2u 20m uic

.control
run
meas tran pvdd_final FIND v(pvdd) AT=20m
meas tran pvdd_peak MAX v(pvdd)
meas tran ea_en_f FIND v(xdut.ea_en) AT=20m
meas tran mc_ea_en_f FIND v(xdut.mc_ea_en) AT=20m
meas tran pass_off_f FIND v(xdut.pass_off) AT=20m
meas tran pass_off_b_f FIND v(xdut.pass_off_b) AT=20m
meas tran ea_out_f FIND v(xdut.ea_out) AT=20m
meas tran gate_f FIND v(xdut.gate) AT=20m
quit
.endc
.end
