* EA Stage 2 Sizing Sweep — Find PFET/NFET balance
* Test different W_cs values for XMcs_p

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

* Inline stripped-down EA — parametric Stage 2 PFET width
.subckt error_amp_test vref vfb vout_gate pvdd gnd ibias en bvdd
+ params: wcs=4e-6

XMen   ibias_en en  ibias   gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6 m=1
XMpu   vout_gate en bvdd    bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=2e-6 m=1
XMbn0  ibias_en ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=1
XMbn_pb pb_tail ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=200
XMbp0   pb_tail pb_tail  pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4
XMtail tail_s pb_tail pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4
XM1 d1  vref tail_s pvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2
XM2 d2  vfb  tail_s pvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2
XMn_l d1 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2
XMn_r d2 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2
XMcs_p  vout_gate d2  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=wcs l=4e-6
XMcs_n  vout_gate ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=50
Cc d2 comp_mid 30p
Rc comp_mid vout_gate 25k

.ends error_amp_test

* Test with W = 1, 2, 3, 4, 6, 8 um
* Use W=3µ as the first test

XEA vref vfb ea_out pvdd 0 ibias bvdd bvdd error_amp_test wcs=8e-6

Vpvdd pvdd 0 5.0
Vbvdd bvdd 0 7.0
Vref vref 0 1.226
Vfb vfb 0 1.226
Ibias 0 ibias DC 1u
Rload ea_out 0 100k

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option itl1=500 itl2=500

.op

.control
op
print V(ea_out) V(XEA.ibias_en) V(XEA.d1) V(XEA.d2) V(XEA.pb_tail) V(XEA.tail_s)
quit
.endc
.end
